US07884207B2
To a solution of tert-butyl 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexylcarbamate (24.6 g, 56.1 mmol) in ethanol (100 mL) was added 2.7 M HCl in ethanol (150 mL). The solution was heated at 65° C. for 4 h, the was allowed to cool to rt overnight. A light brown precipitate was isolated by filtration and washed with ethanol. The precipitate was dissolved in water (100 mL) and NaOH was added until the pH=14. The mixture was extracted with dichloromethane (3×200 mL). The organic layers were combined, dried over Na2SO4, filtered, and concentrated to an oil that was dissolved in ethanol (100 mL). To the ethanol solution was added 2.7 M HCl in ethanol (18.7 mL). A pale tan solid crashed out of solution and was isolated by filtration and dried. The solid was dissolved in water (100 mL) and NaOH was added until the pH=14. The mixture was extracted with dichloromethane (3×200 mL). The organic layers were combined, dried over Na2SO4, filtered, and concentrated to yield 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanamine as a light yellow oil (15.1 g, 79%).

reactant | tert-butyl 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexylcarbamate | 56.1 mmol, 24.6 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)NC(OC(C)(C)C)=O | C25H34N4O3
reactant | HCl | 2.7 M | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanamine | 15.1 g, 79% | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)N | C20H26N4O
